.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-271_freq port1 port2 PARAMS: Cpar=0.95pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=140
+ R2=0.032
+ C= {Cpar}
+ K1=0.000001
+ K2=0.055
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=2.96049E-07
+ Is=4.939931553
+ a=0.831642876
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=667.0983399
.ends EPL2010-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-271_sat port1 port2 PARAMS: Cpar=0.823pF Ind=0.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=140
+ R2=0.032
+ C= {Cpar}
+ K1=0.000001
+ K2=0.055
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=2.96049E-07
+ Is=4.939931553
+ a=0.831642876
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=667.0983399
.ends EPL2010-271_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-421_freq port1 port2 PARAMS: Cpar=1.02pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.04
+ C= {Cpar}
+ K1=0.00002
+ K2=0.076
+ K3= {Ind}
+ K4=0.009
+ K5=0.00000996
+ L=4.38575E-07
+ Is=3.999805861
+ a=0.839661705
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=922.6871471
.ends EPL2010-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-421_sat port1 port2 PARAMS: Cpar=0.869pF Ind=0.47uH
X1 port1 port2 Model1C PARAMS:
+ R1=100
+ R2=0.04
+ C= {Cpar}
+ K1=0.00002
+ K2=0.076
+ K3= {Ind}
+ K4=0.009
+ K5=0.00000996
+ L=4.38575E-07
+ Is=3.999805861
+ a=0.839661705
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=922.6871471
.ends EPL2010-421_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-681_freq port1 port2 PARAMS: Cpar=1.19pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.058
+ C= {Cpar}
+ K1=0.00002
+ K2=0.16
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000099
+ L=6.40899E-07
+ Is=3.418631384
+ a=0.739997693
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1445.0931
.ends EPL2010-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-681_sat port1 port2 PARAMS: Cpar=1.02pF Ind=0.68uH
X1 port1 port2 Model1C PARAMS:
+ R1=120
+ R2=0.058
+ C= {Cpar}
+ K1=0.00002
+ K2=0.16
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000099
+ L=6.40899E-07
+ Is=3.418631384
+ a=0.739997693
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1445.0931
.ends EPL2010-681_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-821_freq port1 port2 PARAMS: Cpar=1.39pF Ind=0.82uH
X1 port1 port2 Model1A PARAMS:
+ R1=46
+ R2=0.068
+ C= {Cpar}
+ K1=0.000001
+ K2=0.16
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000099
+ L=7.59326E-07
+ Is=2.989576403
+ a=0.976121522
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1713.645182
.ends EPL2010-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-821_sat port1 port2 PARAMS: Cpar=1.204pF Ind=0.82uH
X1 port1 port2 Model1C PARAMS:
+ R1=46
+ R2=0.068
+ C= {Cpar}
+ K1=0.000001
+ K2=0.16
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000099
+ L=7.59326E-07
+ Is=2.989576403
+ a=0.976121522
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1713.645182
.ends EPL2010-821_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-102_freq port1 port2 PARAMS: Cpar=1.23pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.18
+ K3= {Ind}
+ K4=0.019
+ K5=0.0000099
+ L=9.81449E-07
+ Is=3.008772395
+ a=0.749986298
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1785.346486
.ends EPL2010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-102_sat port1 port2 PARAMS: Cpar=1.06pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=80
+ R2=0.086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.18
+ K3= {Ind}
+ K4=0.019
+ K5=0.0000099
+ L=9.81449E-07
+ Is=3.008772395
+ a=0.749986298
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1785.346486
.ends EPL2010-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-152_freq port1 port2 PARAMS: Cpar=1.39pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=48
+ R2=0.141
+ C= {Cpar}
+ K1=0.000001
+ K2=0.32
+ K3= {Ind}
+ K4=0.022
+ K5=0.0000099
+ L=1.36425E-06
+ Is=2.315251184
+ a=0.909992822
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2948.385274
.ends EPL2010-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-152_sat port1 port2 PARAMS: Cpar=1.247pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=48
+ R2=0.141
+ C= {Cpar}
+ K1=0.000001
+ K2=0.32
+ K3= {Ind}
+ K4=0.022
+ K5=0.0000099
+ L=1.36425E-06
+ Is=2.315251184
+ a=0.909992822
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2948.385274
.ends EPL2010-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-222_freq port1 port2 PARAMS: Cpar=1.27pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=48
+ R2=0.202
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.02553E-06
+ Is=2.437916133
+ a=0.594861569
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3324.654505
.ends EPL2010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-222_sat port1 port2 PARAMS: Cpar=1.151pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=48
+ R2=0.202
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.02553E-06
+ Is=2.437916133
+ a=0.594861569
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3324.654505
.ends EPL2010-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-332_freq port1 port2 PARAMS: Cpar=1.49pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.272
+ C= {Cpar}
+ K1=0.00003
+ K2=0.72
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=3.14854E-06
+ Is=1.923283278
+ a=0.646366864
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5503.485363
.ends EPL2010-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-332_sat port1 port2 PARAMS: Cpar=1.401pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=42
+ R2=0.272
+ C= {Cpar}
+ K1=0.00003
+ K2=0.72
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=3.14854E-06
+ Is=1.923283278
+ a=0.646366864
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5503.485363
.ends EPL2010-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-472_freq port1 port2 PARAMS: Cpar=1.47pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.429
+ C= {Cpar}
+ K1=0.00003
+ K2=1
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000099
+ L=4.46627E-06
+ Is=1.718097273
+ a=0.688309216
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6975.184305
.ends EPL2010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-472_sat port1 port2 PARAMS: Cpar=1.394pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.429
+ C= {Cpar}
+ K1=0.00003
+ K2=1
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000099
+ L=4.46627E-06
+ Is=1.718097273
+ a=0.688309216
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6975.184305
.ends EPL2010-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-682_freq port1 port2 PARAMS: Cpar=1.39pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.512
+ C= {Cpar}
+ K1=0.00003
+ K2=1.2
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=6.12874E-06
+ Is=1.418263818
+ a=0.697666562
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7979.607672
.ends EPL2010-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-682_sat port1 port2 PARAMS: Cpar=1.334pF Ind=6.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.512
+ C= {Cpar}
+ K1=0.00003
+ K2=1.2
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=6.12874E-06
+ Is=1.418263818
+ a=0.697666562
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7979.607672
.ends EPL2010-682_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-822_freq port1 port2 PARAMS: Cpar=1.72pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.827
+ C= {Cpar}
+ K1=0.000001
+ K2=1.74
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=8.2386E-06
+ Is=0.928249072
+ a=0.694342769
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10167.47231
.ends EPL2010-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-822_sat port1 port2 PARAMS: Cpar=1.659pF Ind=8.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.827
+ C= {Cpar}
+ K1=0.000001
+ K2=1.74
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=8.2386E-06
+ Is=0.928249072
+ a=0.694342769
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10167.47231
.ends EPL2010-822_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-103_freq port1 port2 PARAMS: Cpar=1.54pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.914
+ C= {Cpar}
+ K1=0.000001
+ K2=1.93
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=9.15519E-06
+ Is=0.774630506
+ a=0.967725559
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11377.03153
.ends EPL2010-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-103_sat port1 port2 PARAMS: Cpar=1.496pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.914
+ C= {Cpar}
+ K1=0.000001
+ K2=1.93
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=9.15519E-06
+ Is=0.774630506
+ a=0.967725559
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11377.03153
.ends EPL2010-103_sat

